US08440724B2
(5S,6S)-5-(naphthalen-2-yl)-6-phenyl-1,3-oxazinane hydrochloride
To a stirred solution of PRC200.HCl (100 mg, 0.361 mmol) dissolved in 2 mL of MeOH was added 36% aq. formaldehyde solution (0.5 mL). This solution was heated at 65° C. overnight. After rotary evaporation of the volatiles, the product was leached with diethyl ether and hexane. The crude product could be purified by converting it to a hydrochloride salt, then crystallization from a solvent mixture prepared by dissolving 5 mL of MeOH, 20 mL of diethyl ether, and 17 mL of hexane. Yield 99 mg, 95%. 1H NMR (CD3OD) δ 7.82-7.69 (m,4H), 7.63 (s, 1H), 7.48-7.39 (m,2H), 7.23 (d, J=8.1 Hz, 1H), 7.15 (s, 4H), 5.29 (d, J=9.1 Hz,1H), 5.09 (d, J=10.3 Hz, 1H), 5.02 (d, J=9.2 Hz, 1H), 3.87 (dd, J=12.2, 12.2 Hz, 1H), 3.75 (dd, J=13.0, 4.1 Hz, 1H), 3.71 (dd, J=4.1 Hz, 1H), 3.57-3.45 (m, 1H); MS: m/z (ESI) 290.11(M+1)+; [α]D20+125 (c 0.22, 9:1 EtOH:H2O).

reactant | PRC200 | CNC[C@H](C1=CC2=CC=CC=C2C=C1)[C@@H](C3=CC=CC=C3)O | C20H21NO
reactant | HCl | 0.361 mmol, 100 mg | Cl | ClH
reactant | formaldehyde | 0.5 mL | C=O | CH2O
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | MeOH | 2 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
solvent | H2O | O | H2O
solvent | EtOH | CCO | C2H6O
solvent | hexane | 17 mL | CCCCCC | C6H14
product | (5S,6S)-5-(naphthalen-2-yl)-6-phenyl-1,3-oxazinane hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)[C@H]1CNCO[C@@H]1C1=CC=CC=C1 | InChI=1S/C20H19NO.ClH/c1-2-7-16(8-3-1)20-19(13-21-14-22-20)18-11-10-15-6-4-5-9-17(15)12-18;/h1-12,19-21H,13-14H2;1H/t19-,20-;/m1./s1
